US07919504B2
tert-Butyl (S)-1-(5-(3-fluoroisoquinolin-6-yl)-1,3,4-thiadiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate.
tert-Butyl 5-(3-fluoroisoquinolin-6-yl)-1,3,4-thiadiazol-2-ylcarbamate (0.30 g, 0.860 mmol) and cesium carbonate (0.56 g, 1.72 mmol) in DMF (5.0 mL) were stirred under nitrogen at 55° C. for 10 minutes. tert-Butyl (4S)-4-(4-(trifluoromethyl)benzyl)-1,2,3-oxathiazolidine-3-carboxylate 2,2-dioxide (0.362 g, 0.946 mmol) as prepared in Schemes 1a and 1b for Example 1 was added as a solid. The resulting reaction mixture was stirred at 55° C. for 1.5 hours. The solvent was removed and the residue was partitioned between water and EtOAc. The aqueous layer was extracted with EtOAc (3×140 mL), the combined organic extracts were washed with brine, dried over sodium sulfate and evaporated. The residue was partially purified by chromatography on silica gel (0-35% EtOAc:hexane) to provide the product contaminated with tert-butyl ((2Z)-3-((2S)-2-((tert-butoxycarbonyl)amino)-3-(6-(trifluoromethyl)-3-pyridinyl)propyl)-5-(3-fluoro-6-isoquinolinyl)-1,3,4-thiadiazol-2(3H)-ylidene)carbamate. The mixture was taken up in DMSO (6 mL) and water (0.019 mL). Lithium chloride (0.15 g, 3.5 mmol) was added and the mixture was heated at 100° C. with stirring 16 hours. Saturated NH4Cl was added, and the mixture was extracted with EtOAc (120 mL×3). The organic extracts were washed with water (3×100 mL), brine, dried over sodium sulfate and evaporated. The residue was purified by chromatography on silica gel (0-3% MeOH-DCM) to provide the product as an off-white solid (57 mg, 30%). LCMS (API-ES) m/z: 548 (M+H+).

reactant | tert-Butyl 5-(3-fluoroisoquinolin-6-yl)-1,3,4-thiadiazol-2-ylcarbamate | 0.860 mmol, 0.30 g | FC=1N=CC2=CC=C(C=C2C1)C1=NN=C(S1)NC(OC(C)(C)C)=O | C16H15FN4O2S
reactant | cesium carbonate | 1.72 mmol, 0.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-Butyl (4S)-4-(4-(trifluoromethyl)benzyl)-1,2,3-oxathiazolidine-3-carboxylate 2,2-dioxide | 0.946 mmol, 0.362 g | FC(C1=CC=C(C[C@@H]2N(S(OC2)(=O)=O)C(=O)OC(C)(C)C)C=C1)(F)F | C15H18F3NO5S
reactant | tert-butyl ((2Z)-3-((2S)-2-((tert-butoxycarbonyl)amino)-3-(6-(trifluoromethyl)-3-pyridinyl)propyl)-5-(3-fluoro-6-isoquinolinyl)-1,3,4-thiadiazol-2(3H)-ylidene)carbamate | C(C)(C)(C)OC(=O)N[C@H](CN1/C(/SC(=N1)C=1C=C2C=C(N=CC2=CC1)F)=N/C(OC(C)(C)C)=O)CC=1C=NC(=CC1)C(F)(F)F | C30H32F4N6O4S
reactant | Lithium chloride | 3.5 mmol, 0.15 g | [Cl-].[Li+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | water | 0.019 mL | O | H2O
product | tert-Butyl (S)-1-(5-(3-fluoroisoquinolin-6-yl)-1,3,4-thiadiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 57 mg, 30% | FC=1N=CC2=CC=C(C=C2C1)C1=NN=C(S1)NC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C26H25F4N5O2S
